US08541457B2
Synthesis of 4-Methyl-2-(3-trifluoromethylbenzoylamino)thiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 3-trifluoromethylbenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 27% yield; m.p. 195-196° C.; 1H NMR (CDCl3, 300 MHz) δ 8.15 (s, 1H), 8.07 (d, J=7.8 Hz, 1H), 7.85 (d, J=7.8 Hz, 1H), 7.65 (t, J=7.8 Hz, 1H), 7.40-7.27 (m, 5H), 5.97 (t, J=4.7 Hz, 1H), 4.59 (d, J=5.5 Hz, 2H), 2.49 (s, 3H); MS (ES+) m/z 420 (M+1).

reactant | 3-trifluoromethylbenzoyl chloride | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 4-Methyl-2-(3-trifluoromethylbenzoylamino)thiazole-5-carboxylic Acid Benzylamide | 27% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C | C20H16F3N3O2S
